US03988476
To a 50% dispersion of sodium hydride in mineral oil (4.55 g) was added to a solution of diethyl naphthalene 1,2-dicarboxylate (18.5 g) in ethyl acetate (22 ml.) and the mixture refluxed for 3.5 hrs. on a steam bath. After cooling the precipitated orange solid was filtered and decarboxylated with hydrochloric acid (35 ml.) in water (350 ml) at 70° C over 7 mins. to yield benze(e) indane-1,3-dione, m.p. (benzene) 178° C (decomp.) (Found: C, 79.21; H, 4.22; C13H8O2 requires: C, 79.58; H, 4.11%).

reactant | sodium hydride | [H-].[Na+]
reactant | diethyl naphthalene 1,2-dicarboxylate | 18.5 g | C=1(C(=CC=C2C=CC=CC12)C(=O)OCC)C(=O)OCC | C16H16O4
reactant | ethyl acetate | 22 ml | C(C)(=O)OCC | C4H8O2
product | indane-1,3-dione | C1(CC(C2=CC=CC=C12)=O)=O | C9H6O2
